US08022224B2
3-Chloro-4-methanesulfonyloxy-benzenesulfonic acid sodium salt (TJA01127)
4-hydroxy-3-chlorobenzenesulfonic acid sodium salt (11.53 g, 50.0 mmol) and sodium hydroxide (2.00 g, 50.0 mmol) were dissolved in distilled water (50 mL) and the solution cooled to 0° C. Methane sulfonyl chloride (4.25 mL, 55.0 mmol) was added dropwise with stirring and the mixture then allowed to warm to room temp. and left for 2 h. Brine (20 mL) was added and the solution left to stand for 1 h with the formation of white crystalline solid. The solids were filtered, recrystallised (brine), and dried under vacuum to give the title compound as a white crystalline solid (9.40 g, 61%),

reactant | 4-hydroxy-3-chlorobenzenesulfonic acid sodium salt | 50.0 mmol, 11.53 g | [Na+].OC1=C(C=C(C=C1)S(=O)(=O)[O-])Cl
reactant | sodium hydroxide | 50.0 mmol, 2.00 g | [OH-].[Na+]
reactant | Methane sulfonyl chloride | 55.0 mmol, 4.25 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | water | 50 mL | O | H2O
solvent | Brine | 20 mL | [Cl-].[Na+].O
product | 3-Chloro-4-methanesulfonyloxy-benzenesulfonic acid sodium salt | 9.40 g, 61% | [Na+].ClC=1C=C(C=CC1OS(=O)(=O)C)S(=O)(=O)[O-] | InChI=1S/C7H7ClO6S2.Na/c1-15(9,10)14-7-3-2-5(4-6(7)8)16(11,12)13;/h2-4H,1H3,(H,11,12,13);/q;+1/p-1
